US04987132
Di-tert-butyl dicarbonate (7.85 g) and 35 ml of 1 N sodium hydroxide were added to a solution of 4.00 g of 3-piperidinemethanol in 50 ml of dioxane plus 30 ml of water at 0° C. The reaction mixture was allowed to rise to room temperature and then stirred for 1.5 hours. The product was extracted with ethyl acetate. The ethyl acetate layer was washed in sequence with water and saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 7.20 g of 1-tert-butoxycarbonylpiperidine-3-methanol. Melting point 77°-79° C.

reactant | Di-tert-butyl dicarbonate | 7.85 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 1 N, 35 ml | [OH-].[Na+]
reactant | 3-piperidinemethanol | 4.00 g | N1CC(CCC1)CO | C6H13NO
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
product | 1-tert-butoxycarbonylpiperidine-3-methanol | 7.20 g | C(C)(C)(C)OC(=O)N1CC(CCC1)CO | C11H21NO3
